US07625902B2
(S)-3-Benzyl-1-cyclopropanesulfonyl-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-imidazolidin-2-one
In analogy to example 66, step 4, from (S)-1-cyclopropanesulfonyl-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-imidazolidin-2-one and benzyl bromide was prepared

reactant | (S)-1-cyclopropanesulfonyl-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-imidazolidin-2-one | C1(CC1)S(=O)(=O)N1C(N[C@@H](C1)C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)=O | C19H26N4O4S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | (S)-3-Benzyl-1-cyclopropanesulfonyl-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-imidazolidin-2-one | C(C1=CC=CC=C1)N1C(N(C[C@H]1C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)S(=O)(=O)C1CC1)=O | C26H32N4O4S
